US05705499
5,11-Dihydro-11-ethyl-5-methyl-8-[2-(4-carbomethoxyphenyl)ethyl]-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
5,11-dihydro-11-ethyl-8-ethynyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.1 g, 0.36 mmol) was coupled with methyl 4-iodobenzoate (0.1 g, 0.38 mmol) by a procedure analogous to that described in Example 51b to give 79 mg of an olefinic coupled product, 5,11-Dihydro-11-ethyl-5-methyl-8-[2-(4-methoxycarbonylphenyl)ethen-1-yl]-(-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one. Hydrogenation as described in Example 56 afforded 22 mg of the title compound, m.p. 172°-173° C. (ethyl acetate/hexanes).

reactant | 5,11-dihydro-11-ethyl-8-ethynyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.36 mmol, 0.1 g | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)C#C)=O)C)C=CC=N2 | C16H14N4O
reactant | methyl 4-iodobenzoate | 0.38 mmol, 0.1 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | 6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | N1=CC=CC2=NC(C3=C(N=C21)N=CC=C3)=O | C11H6N4O
product | 5,11-Dihydro-11-ethyl-5-methyl-8-[2-(4-carbomethoxyphenyl)ethyl]-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 22 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCC3=CC=C(C=C3)C(=O)OC)=O)C)C=CC=N2 | C24H24N4O3
